US06930109B2
8-Oxo-8H-5-oxa-1-aza-phenanthrene-6-carboxylic acid ethyl ester (2.0 g, 7.4 mmole) was dissolved in 200 mL of ethanol and 0.50 g of 20% palladium hydroxide on carbon added. The mixture was treated with 60 psi of hydrogen on a Parr apparatus for 48 hours, then filtered through celite and concentrated in vacuum. Thin layer chromatography on silica gel vs. a starting material standard indicated that the reaction was incomplete. The material was redissolved in 150 mL of acetic acid, 0.50 g of 20% palladium hydroxide on carbon added, and the mixture again treated with 60 psi of hydrogen for 48 hours. It was then filtered through celite, concentrated in vacuum and column chromatographed on silica gel with 2% ethanol in chloroform as eluant to give 0.80 g of 1,3,4,6,7,8-hexahydro-2H-5-oxa-1-aza-phenanthrene-6-carboxylic acid ethyl ester. 1H-NMR (CDCl3): doublet 6.65 δ (1H); doublet 6.1 δ (1H); multiplet 4.7 δ (1H); quartet 4.25 δ (2H); broad singlet 3.65 δ (1H); multiplet 3.2 δ (2H); multiplet 2.65 δ (4H); multiplet 2.2 δ (2H); multiplet 1.95 δ (2H); triplet 1.25 δ (3H).

reactant | 8-Oxo-8H-5-oxa-1-aza-phenanthrene-6-carboxylic acid ethyl ester | 7.4 mmole, 2.0 g | C(C)OC(=O)C=1OC2=C3C=CC=NC3=CC=C2C(C1)=O | C15H11NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.50 g | [OH-].[OH-].[Pd+2]
product | 1,3,4,6,7,8-hexahydro-2H-5-oxa-1-aza-phenanthrene-6-carboxylic acid ethyl ester | 0.80 g | C(C)OC(=O)C1OC2=C3CCCNC3=CC=C2CC1 | C15H19NO3
